US04775692
To an ice-cooled and stirred solution of cyclopentanecarboxylic acid (8.0 g, 0.070 mol) in 30 ml of ether was slowly added an excess solution of diazomethane in ether. After concentration of ether, the residue was distilled under reduced pressure to give a colorless transparent oil of methyl cyclopentanecarboxylate (7.65 g, 0.053 mol, yield 85.2%, b.p. 82°-83° C./62 mmHg), which was assigned the structure by the following data.

reactant | cyclopentanecarboxylic acid | 0.070 mol, 8.0 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 30 ml | CCOCC | C4H10O
product | methyl cyclopentanecarboxylate | 0.053 mol, 7.65 g, yield 85.2% | C1(CCCC1)C(=O)OC | C7H12O2
